US07452992B2
To a stirred solution of 2-methyl-1-{(1R,5S)-8-[2-(2-phenylmorpholin-2-yl)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}-1H-benzimidazole trihyrdochloride (59.3 mg, 0.10 mmol), 3-hydroxy-2,2-dimethylpropanoic acid (18 mg, 0.15 mmol), and diisopropylethylamine (70 μL, 0.40 mmol) in 1 mL DMF was added HATU (57 mg, 0.15 mmol). The resulting mixture was stirred at ambient temperature for 24 h and then diluted with methylene chloride and washed with saturated aqueous NaHCO3. The organic phase was dried (Na2SO4), concentrated by evaporation, and purified by chromatography (5% (2M NH3/MeOH) in CHCl3) to afford 2,2-dimethyl-3-(2-{2-[(1R,5S)-3(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-2-phenylmorpholin-4-yl)-3-oxopropan-1-ol (29.3 mg. 55%) as amorphous solid. 1H NMR (400 MHz, CDCl3), δ 7.65 (m, 1H), 7.44-7.26 (m, 6H), 7.19-7.10 (m, 2H), 4.80 (br., 1H), 4.69 (m, 1H), 3.75-3.37 (m, 8H), 3.35-3.16 (m, 3H), 2.58 (s, 3H), 2.46-2.34 (m, 2H), 2.13-1.84 (m, 8H), 1.68-1.59 (m, 2H), 1.23 (s, 3H), 1.02 (s, 3H); ESI-MS 531 (M+H), 553 (M+Na).

reactant | 2-methyl-1-{(1R,5S)-8-[2-(2-phenylmorpholin-2-yl)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}-1H-benzimidazole trihyrdochloride | 0.10 mmol, 59.3 mg | Cl.Cl.Cl.CC1=NC2=C(N1C1C[C@H]3CC[C@@H](C1)N3CCC3(CNCCO3)C3=CC=CC=C3)C=CC=C2
reactant | 3-hydroxy-2,2-dimethylpropanoic acid | 0.15 mmol, 18 mg | OCC(C(=O)O)(C)C | C5H10O3
reactant | diisopropylethylamine | 0.40 mmol, 70 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.15 mmol, 57 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,2-dimethyl-3-(2-{2-[(1R,5S)-3(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-2-phenylmorpholin-4-yl)-3-oxopropan-1-ol | 29.3 mg, 55% | CC(CO)(C(=O)N1CC(OCC1)(C1=CC=CC=C1)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)C | C32H42N4O3
